US09120837B2
A solution of di-tert-butyl 4-(2-bromoacetamido)-4-(3-(tert-butoxy)-3-oxopropyl)heptanedioate (1.397 g, 2.61 mmol), 1H-imidazole-2-carbaldehyde (0.30 g, 3.13 mmol), DIPEA (2.0 mL), and KI (0.30 g) in DMF (5.0 mL) was stirred at 80° C. for 5 hrs. The solvent was evaporated under reduced pressure to afford a residue, which was purified by biotage eluting with 20% EtOAc in hexanes to 100% EtOAc to give di-tert-butyl 4-(3-(tert-butoxy)-3-oxopropyl)-4-(2-(2-formyl-1H-imidazol-1-yl)acetamido)heptanedioate (0.90 g, 63%). 1H NMR (400 MHz, CDCl3) 9.78 (s, 1H), 7.32 (s, 1H), 7.23 (s, 1H), 6.65 (s, 1H), 4.90 (s, 2H), 2.19 (t, J=7.8 Hz, 6H), 1.94 (t, J=7.8 Hz, 6H), 1.42 (s, 9H); MS (ESI), 552 (M+H)+.

reactant | di-tert-butyl 4-(2-bromoacetamido)-4-(3-(tert-butoxy)-3-oxopropyl)heptanedioate | 2.61 mmol, 1.397 g | BrCC(=O)NC(CCC(=O)OC(C)(C)C)(CCC(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C | C24H42BrNO7
reactant | 1H-imidazole-2-carbaldehyde | 3.13 mmol, 0.30 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | DIPEA | 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | di-tert-butyl 4-(3-(tert-butoxy)-3-oxopropyl)-4-(2-(2-formyl-1H-imidazol-1-yl)acetamido)heptanedioate | 0.90 g, 63% | C(C)(C)(C)OC(CCC(CCC(=O)OC(C)(C)C)(CCC(=O)OC(C)(C)C)NC(CN1C(=NC=C1)C=O)=O)=O | C28H45N3O8
